US07504404B2
3-(3-Pyridin-3-yl-[1,2,4]oxadiazol-5-yl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) (188 mg, 0.5 mmol) and commercially available N-hydroxy-nicotinamidine [CAS-No. 1594-58-7] (103 mg, 0.75 mmol) according to general procedure II. Obtained after purification by column chromatography (dichloromethane/MeOH/NH4OH) and crystallization (dichloromethane/MeOH/hexane) as a yellow solid (126 mg, 53%). MS (EI) 476.1 [(M+H)+]; mp 199° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 188 mg | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | N-hydroxy-nicotinamidine | 0.75 mmol, 103 mg | ONC(C1=CN=CC=C1)=N | C6H7N3O
product | 3-(3-Pyridin-3-yl-[1,2,4]oxadiazol-5-yl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | N1=CC(=CC=C1)C1=NOC(=N1)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C21H10F6N6O
